US07259177B2
4-Methyl-2-{2-[cis-3-(5-methyl-2-p-tolyloxazol-4-ylmethoxy)cyclo-hexyl]ethyl}pentanoic acid
500 mg of tert-butyl 4-methyl-2-{2-[cis-3-(5-methyl-2-p-tolyloxazol-4-ylmethoxy)cyclohexyl]ethyl}pent-4-enoate are dissolved in 20 ml of ethyl acetate, and 50 mg of palladium (10% on activated carbon) are added. The mixture is stirred under an atmosphere of hydrogen (5 bar) for 5 hours. The catalyst is filtered off through Celite and the filtrate is concentrated under reduced pressure. The residue is dissolved in 20 ml of dichloromethane, and 10 ml of trifluoroacetic acid are added. The mixture is stirred at room temperature for 1 hour. 100 ml of toluene are added, and the solvents are then removed under reduced pressure. The residue is purified by RP-HPLC. This gives 100 mg of 4-methyl-2-{2-[cis-3-(5-methyl-2-p-tolyloxazol-4-ylmethoxy)cyclohexyl]ethyl}pentanoic acid as an oil. C26H37NO4 (427.59), MS(ESI): 428 (M+H+).

reactant | tert-butyl 4-methyl-2-{2-[cis-3-(5-methyl-2-p-tolyloxazol-4-ylmethoxy)cyclohexyl]ethyl}pent-4-enoate | 500 mg | CC(CC(C(=O)OC(C)(C)C)CC[C@@H]1C[C@@H](CCC1)OCC=1N=C(OC1C)C1=CC=C(C=C1)C)=C | C30H43NO4
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium | 50 mg | [Pd] | Pd
product | 4-Methyl-2-{2-[cis-3-(5-methyl-2-p-tolyloxazol-4-ylmethoxy)cyclo-hexyl]ethyl}pentanoic acid | CC(CC(C(=O)O)CC[C@@H]1C[C@@H](CCC1)OCC=1N=C(OC1C)C1=CC=C(C=C1)C)C | C26H37NO4
